US04051152
9-Acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-3-oxo-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran
To a stirring mixture of 9-acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l] benzopyran (7.59 g., 19.7 mmole) in 60 ml. of 50% acetic acid and 10 ml. of chloroform under a nitrogen atmosphere, was added dropwise a solution of ceric ammonium nitrate (43.2 g., 78.8 mmole) in 100 ml. of 50% acetic acid. After the addition was completed, the reaction mixture was stirred over a steam bath for 1/2 hour. It was then extracted with several portions of chloroform and the organic solvents were removed by evaporation under reduced pressure. The residue was taken up in ether, neutralized with 5% NaHCO3, washed with water and dried over Na2SO4. Evaporation of the ether in vacuo left 14.7 g. of crude material. Purification of the crude product involved three chromatograhpies, two column and a final preparative thin-layer chromatography, with each using diethyl ether/petroleum ether solvent mixtures. An nmr spectrum taken at this time, however, showed that the compound had been partially deacetylated as a result of the chromatograhpies. The product was reacetylated in the usual manner by heating the pyran with acetic anhydride in pyridine. Upon workup, 57 mg. of product was obtained which gave a single fluorescent spot on tlc (R f 0.41). The ir and nmr were in agreement with the proposed structure.

reactant | 9-acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-1,2,3,4-tetrahydrocyclopenta[ c][l] benzopyran | 19.7 mmole, 7.59 g | C(C)(=O)OC1=CC(=CC2=C1C1=C(C(O2)(C)C)CCC1)C(C(CCCCC)C)C | C25H36O3
reactant | pyran | O1CC=CC=C1 | C5H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9-Acetoxy-4,4-dimethyl-7-(1,2-dimethylheptyl)-3-oxo-1,2,3,4-tetrahydrocyclopenta[ c][l]benzopyran | C(C)(=O)OC1=CC(=CC2=C1C1=C(C(O2)(C)C)C(CC1)=O)C(C(CCCCC)C)C | C25H34O4
